US05366972
5,11-Dihydro-11-ethyl-2-(3-hydroxypropyl)amino-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
The title compound, m.p. 222°-224° C., was synthesized from 2-chloro-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one and 3-aminopropanol using procedures analogous to those described above, except that the mixture was heated in a pressure bottle at 210° C. for 40 min., and the product was crystallized from ethyl acetate.

reactant | 2-chloro-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | ClC=1C=C(C=2NC(C3=C(N(C2N1)CC)N=CC=C3)=O)C | C14H13ClN4O
reactant | 3-aminopropanol | NCCCO | C3H9NO
product | 5,11-Dihydro-11-ethyl-2-(3-hydroxypropyl)amino-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | C(C)N1C2=C(NC(C3=C1N=CC=C3)=O)C(=CC(=N2)NCCCO)C | C17H21N5O2
